US08420655B2
To a high pressure vessel is added (4-bromo-2-nitro-phenyl)-tert-butyl-amine (500 mg, 1.83 mmol), bis(pinacolato)diboron (558 mg, 2.2 mmol) and KOAc (720 mg, 7.34 mmol) in 1,4-dioxane (15 mL). The solution is bubbled with Argon gas for 5 minutes, followed by the addition of 1,1′-bis(diphenylphosphino)ferrocenedichlopalladium(II) CH2Cl2 (150 mg, 0.18 mmol). The reaction mixture is stirred at 110° C. for 4 hours. The reaction mixture is filtered through diatomaceous earth. The filtrate is concentrated in vacuo. The residue is loaded to a silica gel column. The column is eluted with 0-10% EtOAc/hexane. The product fractions are collected and concentrated to afford tert-butyl-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-amine (300 mg, 51%) as a yellow solid. LCMS (ESMS): m/z 321.75 (M++1)

reactant | (4-bromo-2-nitro-phenyl)-tert-butyl-amine | 1.83 mmol, 500 mg | BrC1=CC(=C(C=C1)NC(C)(C)C)[N+](=O)[O-] | C10H13BrN2O2
reactant | bis(pinacolato)diboron | 2.2 mmol, 558 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | KOAc | 7.34 mmol, 720 mg | CC(=O)[O-].[K+]
solvent | 1,4-dioxane | 15 mL | O1CCOCC1 | C4H8O2
product | tert-butyl-[2-nitro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-phenyl]-amine | 300 mg, 51% | C(C)(C)(C)NC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-] | C16H25BN2O4
